US08071807B2
(3-Benzyloxy-5-trifluoromethyl-phenyl)-acetic acid ethyl ester (1.7 g, 5.6 mmol) was dissolved in EtOH (30 mL) and degassed with N2. 5% Palladium on carbon (1 g) was added, and the reaction was purged with H2 and then stirred under an H2 balloon at 50° C. overnight. The mixture was filtered and concentrated to give (3-Hydroxy-5-trifluoromethyl-phenyl)-acetic acid ethyl ester.

reactant | (3-Benzyloxy-5-trifluoromethyl-phenyl)-acetic acid ethyl ester | 5.6 mmol, 1.7 g | C(C)OC(CC1=CC(=CC(=C1)C(F)(F)F)OCC1=CC=CC=C1)=O | C18H17F3O3
solvent | EtOH | 30 mL | CCO | C2H6O
product | (3-Hydroxy-5-trifluoromethyl-phenyl)-acetic acid ethyl ester | C(C)OC(CC1=CC(=CC(=C1)C(F)(F)F)O)=O | C11H11F3O3
